US08377941B2
Intermediate 6: 6-[3-(Ethyloxy)phenyl]-3-pyridinecarboxylic acid
To a solution of 6-bromo-3-pyridinecarboxylic acid (Sigma-Aldrich; 100 mg, 0.495 mmol) in 1,2-dimethoxyethane (9 ml) was added [3-(ethyloxy)phenyl]boronic acid (Sigma-Aldrich; 247 mg, 1.485 mmol), sodium carbonate (315 mg, 2.97 mmol) pre-dissolved in water (1 ml) and bis(triphenylphosphine)palladium(II)chloride (52.1 mg, 0.074 mmol). The mixture was heated at 140° C. for 30 mins in a microwave reactor (high absorbance). Ethyl acetate and water were added followed by aqueous HCl (5M). The aqueous layer was extracted with more ethyl acetate. The organic layers were evaporated to dryness and purified using a 5 g SAX column which was pre conditioned with MeOH. The column was washed with MeOH (2 column volumes) and then eluted with 0.5M NH3/MeOH. The eluant was evaporated to dryness under reduced pressure to give a yellow solid. Purification by MDAP gave the title compound as a white solid (29 mg);

reactant | 6-bromo-3-pyridinecarboxylic acid | 0.495 mmol, 100 mg | BrC1=CC=C(C=N1)C(=O)O | C6H4BrNO2
reactant | [3-(ethyloxy)phenyl]boronic acid | 1.485 mmol, 247 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | sodium carbonate | 2.97 mmol, 315 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | 1,2-dimethoxyethane | 9 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.074 mmol, 52.1 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[3-(Ethyloxy)phenyl]-3-pyridinecarboxylic acid | 29 mg | C(C)OC=1C=C(C=CC1)C1=CC=C(C=N1)C(=O)O | C14H13NO3
